US07612202B2
According to the present invention, the dissolution of Temozolomide hydrochloride in the mixture of acetic acid, acetonitrile, and water is complete (at pH range of 3-4), results in the precipitation of Temozolomide upon cooling.

reactant | Temozolomide hydrochloride | CN1C(=O)N2C=NC(=C2N=N1)C(=O)N.Cl
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | Temozolomide | CN1C(=O)N2C=NC(=C2N=N1)C(=O)N | C6H6N6O2
